US04319916
1-Methyl-3-(2-methylbutyryl)-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone
A 1.3 g. portion of impure 5-methyl-1-(3-trifluoromethylphenyl)-2,4-heptanedione was reacted with 50 ml. of N,N-dimethylformamide dimethyl acetal, and then with 2 g. of methylamine hydrochloride as described in Example 12. The impure product was purified as described in Example 12, except that the final product was subjected to an additional step of trituration under hexane to obtain 0.08 g. of the desired product, m.p. 109°-111°, showing the following nmr peaks in CDCl3 : δ7.3-8.1 (m, 6H, aromatic); 3.9-4.2 (m, 1H, COCH); 3.8 (s, 3H, N--CH3); 1.2-2.0 (m, 2H, CH2CH3); 1.1-1.2 (d, 3H, CHCH3); 0.8-1.1 (t, 3H, CH2CH3).

reactant | 5-methyl-1-(3-trifluoromethylphenyl)-2,4-heptanedione | CC(C(CC(CC1=CC(=CC=C1)C(F)(F)F)=O)=O)CC | C15H17F3O2
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
reactant | methylamine hydrochloride | Cl.CN
product | 1-Methyl-3-(2-methylbutyryl)-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone | CN1C=C(C(C(=C1)C1=CC(=CC=C1)C(F)(F)F)=O)C(C(CC)C)=O | C18H18F3NO2
